US04442115
A solution of trimethylsilylazide (0.58 g) and ethyl cyanoformate (0.5 g) in dry benzene (20 ml) was heated at reflux for 48 hours. The solution was allowed to stand at room temperature for 4 days, and the resulting white solid was filtered off to give ethyl tetrazole-5-carboxylate (0.3 g), m.p. 88°-93° C.

reactant | trimethylsilylazide | 0.58 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | ethyl cyanoformate | 0.5 g | C(#N)C(=O)OCC | C4H5NO2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | ethyl tetrazole-5-carboxylate | 0.3 g | N1N=NN=C1C(=O)OCC | C4H6N4O2
